US07951810B2
Step d: {(3aR,4R,6R,6aR)-6-[6-(4-Fluorobenzyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl sulfamate
{(3aR,4R,6R,6aR)-6-[6-(4-Fluorobenzyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methanol (249 mg, 0.000622 mol) and triethylamine (173.4 μL, 0.001244 mol) were dissolved in dry N,N-dimethylformamide (10 mL) under nitrogen and the solution was cooled in a water/ice bath. A 2M solution of chlorosulfonamide in acetonitrile (0.0012 mol, 600 μL) was added dropwise. After 1.5 h, the reaction was quenched with methanol, concentrated in vacuo and the residue was purified by flash chromatography (DCM/EtOAc 30% to 80%) to obtain the product as an oil (262 mg, 88%).

reactant | {(3aR,4R,6R,6aR)-6-[6-(4-Fluorobenzyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methanol | 0.000622 mol, 249 mg | FC1=CC=C(CC2=C3N=CN(C3=NC=N2)[C@@H]2O[C@@H]([C@@H]3[C@H]2OC(O3)(C)C)CO)C=C1 | C20H21FN4O4
reactant | triethylamine | 0.001244 mol, 173.4 μL | C(C)N(CC)CC | C6H15N
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
reactant | acetonitrile | 0.0012 mol, 600 μL | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | {(3aR,4R,6R,6aR)-6-[6-(4-Fluorobenzyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl sulfamate | 262 mg, 88% | S(N)(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)CC2=CC=C(C=C2)F)(=O)=O | C20H22FN5O6S
